US05772990
10 g of 2-amino-4,6-dichloropyrimidine are suspended in 100 ml of ethanol. 11.15 g of butylamine are added. The reaction mixture is refluxed for 2 hours and then evaporated to dryness. The residue is taken up in 100 ml of water. After 1 hour's stirring the precipitate is filtered off on sintered glass and is then recrystallized from 80 ml of 6/4 water/acetonitrile. 8.75 g of 2-amino-4-butylamino-6-chloropyrimidine are obtained.

reactant | 2-amino-4,6-dichloropyrimidine | 10 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | butylamine | 11.15 g | C(CCC)N | C4H11N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-4-butylamino-6-chloropyrimidine | 8.75 g, Yield=71% | NC1=NC(=CC(=N1)NCCCC)Cl | C8H13ClN4
